US05716954
To a solution of 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine (0.20 g, 0.75 mmoles) dissolved in ethanol (50 ml), was added benzylhydrazine hydrochloride (0.36 g, 1.86 mmoles). The mixture was heated to 85° C. for 144 hours. The mixture was purified by chromatography yielding 0.11 g of 6-benzyl-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one (41%), mp 132° C.

reactant | 2-(3-nitrobenzoyl)-3-methoxycarbonylpyridine | 0.75 mmoles, 0.20 g | [N+](=O)([O-])C=1C=C(C(=O)C2=NC=CC=C2C(=O)OC)C=CC1 | C14H10N2O5
reactant | benzylhydrazine hydrochloride | 1.86 mmoles, 0.36 g | Cl.C(C1=CC=CC=C1)NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-benzyl-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one | 0.11 g, 41% | C(C1=CC=CC=C1)N1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)[N+](=O)[O-] | C20H14N4O3
